US04707488
E: 3-(3,5-Dichlorophenyl)propylamine
3-(3,5-Dichlorophenyl)propylazide (0.0506 mol) was reacted with Raney nickel substantially as described in Example 7F above to obtain 10.4 g (100%) of an oily product.

reactant | 3-(3,5-Dichlorophenyl)propylazide | 0.0506 mol | ClC=1C=C(C=C(C1)Cl)CCCN=[N+]=[N-] | C9H9Cl2N3
catalyst | Raney nickel | [Ni] | Ni
product | 3-(3,5-Dichlorophenyl)propylamine | 10.4 g, 100% | ClC=1C=C(C=C(C1)Cl)CCCN | C9H11Cl2N
